### PR TITLE
Kleisli Triples and cat isomorphism with Monads

### PR DESCRIPTION
**Pull request by logicosimo**
This is our first non-trivial attempt to contribute to UniMath.
Please revise: any comments or suggestions for improvement are welcome.

### CODE REVIEW

File: UniMath/CategoryTheory/Monads/KTriples.v [hunk 1]
```diff
@@ -0,0 +1,367 @@
...
+  - apply (invmap (Kleisli_Mor_equiv hs _ _ )).
+    apply funextsec. intros x. apply assoc.
+Defined.
+
+Definition precategory_Kleisli (C : precategory) (hs : has_homsets C) : precategory :=
+  precategory_Kleisli_Data C,, precategory_Kleisli_axioms C hs.
+
+Lemma has_homsets_Kleisli (C : category) :
+  has_homsets (precategory_Kleisli C (homset_property C)).
+Proof.
```
Comment (mortberg) [inline UniMath/CategoryTheory/Monads/KTriples.v]: Please use bullets in this proof

File: UniMath/CategoryTheory/Monads/KTriplesEquiv.v [hunk 2]
```diff
@@ -0,0 +1,491 @@
...
+Definition unkleislify_mor {C : precategory} {T T' : Kleisli C}
+           (α : Kleisli_Mor T T') :
+  Monad_Mor (unkleislify T) (unkleislify T') :=
+  nat_trans_kleisli_mor α ,, unkleislify_mor_laws α.
+
+(* ----- Functor from Kleisli to Monads. ----- *)
+
+Definition functor_data_unkleislify (C : precategory) (hs : has_homsets C) :
+  functor_data (precategory_Kleisli C hs) (precategory_Monad C hs).
+Proof.
```
Comment (mortberg) [inline UniMath/CategoryTheory/Monads/KTriplesEquiv.v]: Please use bullets

File: UniMath/CategoryTheory/Monads/KTriplesEquiv.v [hunk 3]
```diff
@@ -0,0 +1,491 @@
...
+Defined.
+
+Definition kleislify_mor {C : precategory} {M M' : Monad C}
+           (α : Monad_Mor M M') :
+  Kleisli_Mor (kleislify M) (kleislify M') :=
+  (λ x:C, α x) ,, kleislify_mor_law α.
+
+Definition functor_data_kleislify (C : precategory) (hs : has_homsets C) :
+  functor_data (precategory_Monad C hs) (precategory_Kleisli C hs).
+Proof.
```
Comment (mortberg) [inline UniMath/CategoryTheory/Monads/KTriplesEquiv.v]: Please use bullets

File: UniMath/CategoryTheory/Monads/KTriplesEquiv.v [hunk 4]
```diff
@@ -0,0 +1,491 @@
...
+  Defined.
+
+  Lemma kleislify_unkleislify (T : Kleisli C) :
+    kleislify (unkleislify T) = T.
+  Proof.
+    unfold unkleislify, kleislify. simpl.
+    destruct T as (F , (K , L)). simpl.
+    change (λ x : C, F x) with F.
+    apply (pair_path_in2). apply subtypeEquality'.
+    2: apply (isaprop_Kleisli_Laws hs K).
```
Comment (mortberg) [inline UniMath/CategoryTheory/Monads/KTriplesEquiv.v]: What is `2: ...`?

File: UniMath/CategoryTheory/Monads/KTriplesEquiv.v [hunk 5]
```diff
@@ -0,0 +1,491 @@
...
+    simpl. apply (unkleislify_data_eq (F,, K,, L)).
+  Defined.
+
+  Lemma unkleislify_kleislify (M : Monad C) :
+    unkleislify (kleislify M) = M.
+  Proof.
+    apply (Monad_eq_raw_data hs).
+    unfold Monad_to_raw_data. simpl.
+    change (λ x:C, M x) with (M: ob C → ob C).
+    apply (pair_path_in2). apply total2_paths2.
```
Comment (mortberg) [inline UniMath/CategoryTheory/Monads/KTriplesEquiv.v]: Please use bullets

File: UniMath/CategoryTheory/Monads/KTriplesEquiv.v [hunk 6]
```diff
@@ -0,0 +1,491 @@
...
+  Defined.
+
+  Definition etainv_morph (T : Monad C) :
+    Monad_Mor T (unkleislify (kleislify T)) :=
+    etainv_data T ,, etainv_data_laws T.
+
+  Lemma etainv_morph_law (M : Monad C) :
+    Monad_Mor_laws (T := M) (T' := (unkleislify (kleislify M))) (etainv_data M).
+  Proof.
+    split; simpl; intros.
```
Comment (mortberg) [inline UniMath/CategoryTheory/Monads/KTriplesEquiv.v]: I think you are using the names introduced here below? (where does `a` come from?) If so please explicitly name them here

File: UniMath/CategoryTheory/Monads/KTriplesEquiv.v (hunk 4 above)
Comment (logicosimo) [reply UniMath/CategoryTheory/Monads/KTriplesEquiv.v]: @mortberg We often used this command to apply the tactic to the second subgoal, in order to avoid proliferating of levels of bulleting that can be easily solved (it is something similar to what you suggested in your first comment).

File: UniMath/CategoryTheory/Monads/KTriplesEquiv.v (hunk 5 above)
Comment (logicosimo) [reply UniMath/CategoryTheory/Monads/KTriplesEquiv.v]: Using the command `2: apply idpath` the second subgoal generated by `total2_paths2` is immediately solved, for this we did not introduced bullets here.

File: UniMath/CategoryTheory/Monads/KTriplesEquiv.v (hunk 6 above)
Comment (logicosimo) [reply UniMath/CategoryTheory/Monads/KTriplesEquiv.v]: I'll change the `intros` in the first line with `intro a`, so it will feel more clear: thank you for your suggestions!

File: UniMath/CategoryTheory/Monads/KTriples.v (hunk 1 above)
Comment (logicosimo) [reply UniMath/CategoryTheory/Monads/KTriples.v]: Done, thanks!

File: UniMath/CategoryTheory/Monads/KTriplesEquiv.v (hunk 2 above)
Comment (logicosimo) [reply UniMath/CategoryTheory/Monads/KTriplesEquiv.v]: Done, thanks!

File: UniMath/CategoryTheory/Monads/KTriplesEquiv.v (hunk 3 above)
Comment (logicosimo) [reply UniMath/CategoryTheory/Monads/KTriplesEquiv.v]: Done, thanks!

File: UniMath/CategoryTheory/Monads/KTriplesEquiv.v (hunk 4 above)
Comment (mortberg) [reply UniMath/CategoryTheory/Monads/KTriplesEquiv.v]: I see, I never used this

Comment (DanGrayson) [reply UniMath/CategoryTheory/Monads/KTriplesEquiv.v]: Using bullets and braces is better than using the goal selecting colon, because with them, after the clause is over if, if the goal has not been solved, an error is raised.  With the colon, however, if the tactic fails to solve the goal, the proof continues, and the error message is raised at a location distant from the relevant location -- likely at the end of the proof.

Another advantage of the bullets or braces, for someone stepping through the proof one step at a time, is that each time a tactic is applied, there is just one goal visible on the screen, which makes things simpler.
